US05245046
Ethyl α-[3-(trifluoromethyl)benzylamino]-1-benzylindole-3 acetate
To a magnetically stirred suspension of α-[3-(trifluoromethyl)benzylamino)-1-benzylindole-3-acetic acid (21.9 g, 0.05 mol) in 250 mL of methanol at room temperature was treated with 11.34 g of sodium methoxide (25% in methanol) at once. The resulting solution was stirred for two hours, concentrated directly on a rotary evaporator and finally the resulting white residue was pumped down under high vacuum using a warm water bath at ca 50° C. The dry sodium salt was dissolved in 100 mL of dimethylformamide, charged at once with ethyl iodide (9.36 g, 0.06 mol, 1.20 eq) and stirred in the dark for 48 hours with an additional 50 mL of dimethylformamide being added after 20 hours to facilitate stirring of the gelantinous precipitate which formed. The contents were diluted with ether and poured into 125 mL of ice water plus 125 ml of saturated brine. The aqueous phase was separated from the organic layer and extracted once more with ether. The combined organic extracts were dried with anhydrous Na2SO4 and concentrated at reduced pressure. Flash chromatography with 250 g of silica gel packed and eluted with ethyl acetate-hexane (1:4) gave the title compound as a yellow oil.

reactant | α-[3-(trifluoromethyl)benzylamino)-1-benzylindole-3-acetic acid | 0.05 mol, 21.9 g | FC(C=1C=C(CNC(C(=O)O)C2=CN(C3=CC=CC=C23)CC2=CC=CC=C2)C=CC1)(F)F | C25H21F3N2O2
reactant | sodium methoxide | 11.34 g | C[O-].[Na+]
reactant | ethyl iodide | 0.06 mol, 9.36 g, 1.20 eq | C(C)I | C2H5I
reactant | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | methanol | 250 mL | CO | CH4O
solvent | ether | CCOCC | C4H10O
solvent | brine | 125 ml | [Cl-].[Na+].O
product | Ethyl α-[3-(trifluoromethyl)benzylamino]-1-benzylindole-3 acetate | FC(C=1C=C(CNC(C(=O)OCC)C2=CN(C3=CC=CC=C23)CC2=CC=CC=C2)C=CC1)(F)F | C27H25F3N2O2
